US09403835B2
Intermediate B6: (S)-3-(2-carboxy-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 2-((S)-piperidin-3-yloxy)-benzonitrile (270 mg; 1.33 mmol; 1 eq.) in 5M NaOH (2 mL) and EtOH (2 mL) was stirred at reflux for 2 days. The reaction mixture was allowed to return to room temperature and di-tert-butyl dicarbonate (2.9 g; 13.35 mmol; 10 eq.) was added portion wise. After 30 min, water was added and the aqueous phase was washed with Et2O (2×). The aqueous phase then acidified and extracted with DCM (3×). The combined organic layer was washed with sat. aq. NH4Cl, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (216 mg, 50%) as a pale yellow oil. HPLC (max plot) 98.2%; Rt 3.76 min. UPLC/MS: (MS−) 320.23 ([M−H]−).

reactant | 2-((S)-piperidin-3-yloxy)-benzonitrile | 1.33 mmol, 270 mg, 1 eq. | N1C[C@H](CCC1)OC1=C(C#N)C=CC=C1 | C12H14N2O
reactant | di-tert-butyl dicarbonate | 13.35 mmol, 2.9 g, 10 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
reactant | NaOH | 5M, 2 mL | [OH-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | (S)-3-(2-carboxy-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 216 mg, 50% | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC=C1)C(=O)O | C17H23NO5
